US06797718B2
Under a nitrogen atmosphere, 4-morpholinecarbonyl chloride (370 μL) was added to a solution of 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine (0.757 g) in chloroform (11 mL) and triethylamine (520 μL). The reaction mixture was stirred at ambient temperature for about 3 hours; then it was diluted with chloroform (20 mL) and washed with saturated sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The crude product was recrystallized from acetonitrile and dried in a vacuum oven at 60° C. for 24 hours to provide 0.7014 g of N-{2-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}morpholine-4-carboxamide as a white powder, m.p. 205-207° C.

reactant | 4-morpholinecarbonyl chloride | 370 μL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.757 g | NCCOCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C13H21N5O
solvent | chloroform | 11 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 520 μL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{2-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}morpholine-4-carboxamide | 0.7014 g | NC1=NC(=C(C2=C1N=C(N2CCOCCNC(=O)N2CCOCC2)C)C)C | C18H28N6O3
